US09399647B2
To a stirred mixture of 2-Amino-4,5,6,7-tetrahydro-benzo[b]thiophene-3-carboxylic acid ethyl ester (2.0 g, 0.0088 mol) and methoxyacetonitrile (1.3 ml, 0.0177 mol) in 1,4-dioxane (200 nml), dry HCl gas was purged for 30-45 minutes at 0-5° C. The reaction mixture was then warmed to room temperature and stirred for about 20 h under inert atmosphere. After completion of the reaction, the mixture was quenched with the addition of crushed ice (˜200 g). The aqueous layer was then extracted well with ethyl acetate (2×250 ml). Combined organic layers was washed with brine solution (100 ml) dried over anhydrous Na2SO4 and concentrated under vacuum to get crude 2-Methoxymethyl-5,6,7,8-tetrahydro-benzo[4,5]thieno[2,3-d]pyrimidin-4-ol as brown colored solid which was forwarded as such for the next step. Yield: (2 g, 90%); 1H NMR (400 MHz, DMSO) δ ppm=12.27 (s, 1H), 4.28 (s, 2H), 3.31 (s, 3H), 2.87-2.84 (m, 2H), 2.74-2.71 (m, 2H), 1.81-1.73 (m, 4H); LCMS: [M+H]=251.1.

reactant | 2-Amino-4,5,6,7-tetrahydro-benzo[b]thiophene-3-carboxylic acid ethyl ester | 0.0088 mol, 2.0 g | C(C)OC(=O)C=1C2=C(SC1N)CCCC2 | C11H15NO2S
reactant | methoxyacetonitrile | 0.0177 mol, 1.3 ml | COCC#N | C3H5NO
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
solvent | HCl | Cl | ClH
product | 2-Methoxymethyl-5,6,7,8-tetrahydro-benzo[4,5]thieno[2,3-d]pyrimidin-4-ol | COCC=1N=C(C2=C(N1)SC1=C2CCCC1)O | C12H14N2O2S
